US05693655
1.2 g of 3-(4-chlorobutyl)-5-methoxyindole [obtainable by reaction of 5-methoxyindole with 4-chlorobutyryl chloride to give 3-(4-chlorobutyryl)-5-methoxyindole and subsequent reduction with diborane] and 1.0 g of 4-(indol-3-yl)piperidine [obtainable by reaction of N-BOC-4-piperidone with indole, subsequent dehydration and hydrogenation of the resulting double bond, and removal of the protective group] are dissolved in 200 ml of acetonitrile and the mixture is stirred at room temperature for 8 hours. Working-up in a conventional manner gives 3-[1-(4-(5-methoxyindol-3-yl)-butyl)-4-piperidyl]indole, hydrochloride, m.p. 138°-141° (dec.).

reactant | 3-(4-chlorobutyl)-5-methoxyindole | 1.2 g | ClCCCCC1=CNC2=CC=C(C=C12)OC | C13H16ClNO
reactant | 4-(indol-3-yl)piperidine | 1.0 g | N1C=C(C2=CC=CC=C12)C1CCNCC1 | C13H16N2
reactant | N-BOC-4-piperidone | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
product | 3-[1-(4-(5-methoxyindol-3-yl)-butyl)-4-piperidyl]indole, hydrochloride | Cl.COC=1C=C2C(=CNC2=CC1)CCCCN1CCC(CC1)C1=CNC2=CC=CC=C12 | InChI=1S/C26H31N3O.ClH/c1-30-21-9-10-26-23(16-21)20(17-27-26)6-4-5-13-29-14-11-19(12-15-29)24-18-28-25-8-3-2-7-22(24)25;/h2-3,7-10,16-19,27-28H,4-6,11-15H2,1H3;1H
